2150-04-08 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2150-4-7**] 10:56 AM
 FEVER - 102.2
F - [**2150-4-7**] 11:00 AM
   - Code status FULL - confirmed w/ Dr. [**Last Name (STitle) 6521**]
   *Renal
   - No blood cultures drawn @ HD as was not febrile there
   - HD tomorrow ([**4-8**]) if stable
   *ID Recs*
   - Obtain CT Chest. If there is obvious collection, obtain bronchoscopy.
   Continue w/ 3 antibiotics pending CT Chest and sputum culture results.
   Remove azithro/vanco if CT findings not c/w Staph or atypical PNA.
   *Studies*
   - TTE: Dilated LA. Mod dilated RA. Mild symmetric LVH w/ mod dilated LV
   cavity. EF=35%. Mod AS (area 1.0-1.2cm2), w/ mild AR and mod thickened
   leaflets. Mod->severe MR. [**First Name (Titles) **] [**Last Name (Titles) **] HTN. Compared w/ [**2149-7-17**], unchanged
   except estimated PA pressure pressure now lower.
   - CT Chest: (Prelim Read) New LLL pneumonia. Differential includes
   bacterial or fungal origin. Persistent RLL pneumonia. -> D/C'd
   azithromycin.
   - Urine Cx: Coag Neg Staph (10K-100K). U/A neg. Will repeat U/A and UCx
   in AM.
   - Bolus 500cc NS at 2100 to attempt to wean Levophed
   Allergies:
   Aspirin
   upset stomach;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-4-7**] 11:39 AM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-4-7**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-4-8**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.7
C (101.6
   HR: 100 (76 - 112) bpm
   BP: 97/50(62) {68/37(45) - 114/82(86)} mmHg
   RR: 27 (8 - 30) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
    Mixed Venous O2% Sat: 64 - 64
   Total In:
                                                                  2,231 mL
                                                                    247 mL
   PO:
                                                                    710 mL
   TF:
   IVF:
                                                                  1,521 mL
                                                                    247 mL
   Blood products:
   Total out:
                                                                    720 mL
                                                                    300 mL
   Urine:
                                                                    720 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,511 mL
                                                                    -53 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: crackles at both bases, no wheezes
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   70 K/uL
   9.3 g/dL
   162 mg/dL
   6.3 mg/dL
   25 mEq/L
   4.7 mEq/L
   61 mg/dL
   102 mEq/L
   139 mEq/L
   26.9 %
   2.5 K/uL
        [image002.jpg]
                             [**2150-4-6**]  08:01 PM
                             [**2150-4-6**]  08:11 PM
                             [**2150-4-7**]  02:30 AM
                             [**2150-4-8**]  05:00 AM
   WBC
   3.3
   2.5
   Hct
   28.1
   26.9
   Plt
   70
   70
   Cr
   4.7
   6.3
   TropT
   0.11
   0.25
   TCO2
   27
   Glucose
   249
   162
   Other labs: PT / PTT / INR:15.4/38.2/1.4, Ca++:8.5 mg/dL, Mg++:2.2
   mg/dL, PO4:4.3 mg/dL
   Dig 0.3, Vanco 11.5, IgG 150 (low)
   Assessment and Plan
   This is a 73 yo male with NHL on Bendemustine (last dose [**2150-3-25**], ESRD
   on HD, here with fever, hypotension, and new LLL infiltrate on CXR
   concerning for pneumosepsis.
   .
   1. Pneumonia, Sepsis, Hypotension, Fever:  Chest CT with clear evidence
   of new LLL pneumonia.  RLL pneumonia appears improved compared with
   prior.  .  Most likely source of infection in patient is pneumonia
   given new LLL infiltrate. However, possibilty of other etiologies as
   well.  Patient denies viral symptoms.  He has both HD line and
   port-a-cath which could be sources of infection.  No dysuria, diarrhea,
   chest pain, abdominal pain, or any other localizing symptoms.  Patient
   has leukopenia rather than leukocytosis and no left shift, but this may
   be secondary to chemotherapy.  Immunosuppression secondary to
   chemotherapy raises the possibility of fungal infections or other
   uncommon infections.  Recurrent PNAs over the last month is suggestive
   of aspiration, though patient reportedly had dysphagia level 5 (mild
   dysphagia) on last admission.  Hypovolemia from over-diuresis at
   dialysis also a possibility.
   - sputum, blood, urine cultures
   - follow WBC, fever curve
   - check glucan, galactomanna
   - consider chest CT to further elucidate pulmonary findings
   - vanco/zosyn/azithro to cover CAP
    Pneumonia.  Patient has had multpile recent admissions for pneumonias.
   .
   2.  Hypotension.  Patienthas BP's ranging from 50s to 120s.  However,
   given fever, there is concern for sepsis.  After developing flash
   pulmonary edema, will hold off on further fluids.  He appears to have
   gotten 3.5 L total in ED and in MICU.  Patient mentating well in spite
   of low BPs, however, this BP appears lower than outpatient readings of
   100s-110s systolic.
   - levophed to maintain MAPS>65
   - evaluate for infectious etiology with blood, urine, sputum cultures
   - consider unusual infectious etiologies such as fungal source given
   immunosupression secondary to chemotherapy
   - hold off on further fluid boluses for now
   - hold carvedilol, spironolactone, lisinopril
   .
   3.  Respiratory distress.  After arrival to MICU, after getting 3.5 L
   of IVF, patient developed acute respiratory distress, hypertension,
   tachycardia, diffuse wheezing, and blood-tinged sputum.  History was
   consistent with flash pulmonary edema, and responded with lasix 40IV,
   morphine 1 mg, lopressor 5 mg IV.  Unable to give nitrate due to
   hypotension.  Lung exam, respiratory distress, and O2 requirements
   improved with these interventions.  In addition, concern for PNA, so
   getting vanco/azithro/zosyn.
   - hold off on fluid bolus
   - wean O2 as possible
   - vanco/zosyn/azithro for PNA
   .
   4.  Syncope.  Syncope at dialysis likely secondary to cerbral
   hypoperfusion in setting of hypotension.  EKG has no ischemic changes.
   - ROMI
   - s/p IVFs, now on pressors to maintain MAPS > 65
   .
   5. CKD.  ESRD, on HD. Concern for fluid overload after getting 3.5 L of
   fluid, but no urgent HD needs.
   - continue nephrocaps, ca acetate
   - notify renal
   - renal diet
   .
   6.  Type 2 DM.
   - hold glipizide
   - HISS
   .
   7.  NHL.  S/p Bendemustine (last dose [**2150-3-25**]) which is an alkylating
   [**Doctor Last Name **].  It causes pancytopenia with [**Last Name (un) 6472**] at 3 weeks ([**2150-4-15**]).  Also
   can cause hypotension in 6% of patients.
   - notify oncologist of patients arrival
   .
   FEN: No IVF, replete electrolytes, regular diet
   .
   Prophylaxis: Subcutaneous heparin
   .
   Access: peripherals, right tunneled HD line, right port-a-cath
   .
   Code: full
   .
   Communication: Patient
   .
   Disposition: ICU care as patient is on pressors
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-4-6**] 06:39 PM
   Indwelling Port (PortaCath) - [**2150-4-6**] 06:40 PM
   18 Gauge - [**2150-4-6**] 06:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-04-08 11:31:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2150-4-7**] 10:56 AM
 FEVER - 102.2
F - [**2150-4-7**] 11:00 AM
   -Levophed weaning across today
   -Has persistent fevers
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Aspirin
   upset stomach;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-4-7**] 11:39 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-4-8**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2150-4-8**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.7
C (98
   HR: 87 (76 - 112) bpm
   BP: 84/53(60) {68/37(45) - 114/82(86)} mmHg
   RR: 18 (8 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,231 mL
                                                                    485 mL
   PO:
                                                                    710 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,521 mL
                                                                    365 mL
   Blood products:
   Total out:
                                                                    720 mL
                                                                    300 mL
   Urine:
                                                                    720 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,511 mL
                                                                    185 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   70 K/uL
   162 mg/dL
   6.3 mg/dL
   25 mEq/L
   4.7 mEq/L
   61 mg/dL
   102 mEq/L
   139 mEq/L
   26.9 %
   2.5 K/uL
        [image002.jpg]
                             [**2150-4-6**]  08:01 PM
                             [**2150-4-6**]  08:11 PM
                             [**2150-4-7**]  02:30 AM
                             [**2150-4-8**]  05:00 AM
   WBC
   3.3
   2.5
   Hct
   28.1
   26.9
   Plt
   70
   70
   Cr
   4.7
   6.3
   TropT
   0.11
   0.25
   TCO2
   27
   Glucose
   249
   162
   Other labs: PT / PTT / INR:15.4/38.2/1.4, CK / CKMB /
   Troponin-T:34//0.25, Differential-Neuts:56.0 %, Band:2.0 %, Lymph:22.0
   %, Mono:14.0 %, Eos:1.0 %, Lactic Acid:1.0 mmol/L, Ca++:8.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Imaging: ECHO--AS valve area without significant changes.
   CT Chest-Clear evidence of LLL opacity/infiltrate consistent with
   pnuemonia.
   Assessment and Plan
   73 yo male with ESRD and found to have signficiant pneumonia in LLL and
   likely this in combination with persistent and significant aortic
   stenosis may explain the findings of signficiant hypotension requiring
   pressor support and antibiotic therapy.  This is all in the setting of
   NHL and immune compromised state at baseline.
   1)Sepsis--likely pulmonary source and new LLL opacity likely represents
   significan evidence of new bacteial pneumonia.
   -Levophed to wean as possible.
   -Continue to Rx for pulmonary source
   2)PNEUMONIA, OTHER-Is concerning for dense and new infiltrate in
   patient with modest immune compromise.  He has had some improvement in
   pressor requirement.  This is a new infiltrate but he has had transient
   LL opacities and compromise.  Is dense and with modest air
   bronchograms.
   -Will check total IgG level
   -Vanco/Zosyn
   -Have considered bronchoscopy and would defer for now given nature of
   infiltrate and improvement in hemodynamics but does still carry some
   significant fever.
   -B glucan/galactomanin were drawn within one hour of zosyn dosing
   3)ESRD
   -Dialysis today
   Additional issues to be addressed as defined in the housestaff note of
   this date.
   ICU Care
   Nutrition: Regular Diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2150-4-6**] 06:39 PM
   Indwelling Port (PortaCath) - [**2150-4-6**] 06:40 PM
   18 Gauge - [**2150-4-6**] 06:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2150-04-09 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2150-4-8**] 02:30 PM
   - Renal: blood culture from dialysis line, cont. epo with dialysis
   though anemia likely from malignancy
   - ID: induced sputum, cont. zosyn, stop vanco if MRSA screen neg
   - IgG level 150 (low)
   - Pt. became tachycardic to 130s-140s during HD; valsalva unsuccessful.
   Gave metoprolol 2.5 mg IV with decrease to 120s-130s. Briefly switched
   to neosynephrine with no effect.  Switched back to levophed and spiked
   fever.  Repeated blood cultures; induced sputum not done earlier in
   day.  Rate eventually came down over time to 90s-100s.
   Allergies:
   Aspirin
   upset stomach;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-4-9**] 02:24 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2150-4-8**] 05:00 PM
   Heparin Sodium (Prophylaxis) - [**2150-4-8**] 10:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-4-9**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.7
C (98
   HR: 91 (83 - 140) bpm
   BP: 104/64(73) {75/32(42) - 121/83(89)} mmHg
   RR: 20 (7 - 29) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,122 mL
                                                                    239 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    762 mL
                                                                    239 mL
   Blood products:
   Total out:
                                                                    490 mL
                                                                      0 mL
   Urine:
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    632 mL
                                                                    239 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///27/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: crackles at both bases, no wheezes
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   62 K/uL
   8.6 g/dL
   148 mg/dL
   3.5 mg/dL
   27 mEq/L
   3.6 mEq/L
   27 mg/dL
   104 mEq/L
   143 mEq/L
   26.4 %
   1.3 K/uL
        [image002.jpg]
                             [**2150-4-6**]  08:01 PM
                             [**2150-4-6**]  08:11 PM
                             [**2150-4-7**]  02:30 AM
                             [**2150-4-8**]  05:00 AM
                             [**2150-4-8**]  04:49 PM
                             [**2150-4-9**]  03:14 AM
   WBC
   3.3
   2.5
   1.3
   Hct
   28.1
   26.9
   26.4
   Plt
   70
   70
   62
   Cr
   4.7
   6.3
   2.5
   3.5
   TropT
   0.11
   0.25
   TCO2
   27
   Glucose
   249
   162
   188
   148
   Other labs: PT / PTT / INR:15.2/39.3/1.3, CK / CKMB /
   Troponin-T:34//0.25, Alk Phos / T Bili:/0.4, Differential-Neuts:40.0 %,
   Band:0.0 %, Lymph:44.0 %, Mono:12.0 %, Eos:0.0 %, Lactic Acid:1.0
   mmol/L, LDH:177 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   This is a 73 yo male with NHL on Bendemustine (last dose [**2150-3-25**], ESRD
   on HD, here with fever, hypotension, and new LLL infiltrate on CXR
   concerning for pneumosepsis.
   .
   1. Pneumonia, Sepsis, Hypotension, Fever:  Chest CT with clear evidence
   of new LLL pneumonia.  RLL pneumonia appears improved compared to
   prior, though given length of course, concerning for potential atypical
   process or fungal infection.  Low IgG likely related to therapy for NHL
   and may predispose patient to pneumonia. Awaiting culture data, sputum
   cx inadequate. Now neutropenic.
   - Cont. Vanc & zosyn (D1 [**4-6**]), azithromycin stopped
   - f/u sputum, blood, urine cultures
   - follow WBC, fever curve
   - f/u glucan pending, galactomannan neg (drawn 1 hr after 1^st dose of
   zosyn)
   - consider bronchoscopy if patient does not improve on vanc & zosyn
   - cont. levophed for BP support & wean as tolerated
   - hold carvedilol, spironolactone, lisinopril
   .
   2.  Respiratory distress:  Resolved.  After arrival to MICU, after
   getting 3.5 L of IVF, patient developed acute respiratory distress,
   hypertension, tachycardia, diffuse wheezing, and blood-tinged sputum.
   History was consistent with flash pulmonary edema, and responded with
   lasix 40IV, morphine 1 mg, lopressor 5 mg IV.  Lung exam, respiratory
   distress, and O2 requirements improved with these interventions.  CT
   chest showed LLL consolidation c/w PNA, so getting vanco/zosyn. Appears
   to be typical organism, so Azithro d/c
   - wean O2 as possible
 now on 2L NC
   - vanco/zosyn for PNA
   .
   3.  Syncope.  Syncope at dialysis likely secondary to cerbral
   hypoperfusion in setting of hypotension from pneumonia.  EKG has no
   ischemic changes. Ruled out for AMI. Now on pressors to maintain MAPS >
   65. Tolerating OOB to chair w/o symptoms.
   .
   4. CKD.  ESRD, on HD. Nephrology following, their assistance
   appreciated.  [**Month (only) 51**] need to titrate up levophed during HD.
   - continue nephrocaps, Ca acetate
   - renal diet
   .
   5.  Type 2 DM.  On ISS
   - hold glipizide
   .
   6.  NHL.  S/p Bendemustine (last dose [**2150-3-25**]) which is an alkylating
   [**Doctor Last Name **].  It causes pancytopenia with [**Last Name (un) 6472**] at 3 weeks ([**2150-4-15**]).  Also
   can cause hypotension in 6% of patients.
   - notify oncologist of patients arrival
   .
   7. Anemia: Likely related to therapy for NHL.
   - trend hct.
   .
   FEN: Replete electrolytes, regular diet
   .
   Prophylaxis: Subcutaneous heparin
   .
   Access: peripherals, right tunneled HD line, right port-a-cath
   .
   Code: full
   .
   Communication: Patient
   .
   Disposition: ICU care as patient is on pressors
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-4-6**] 06:39 PM
   Indwelling Port (PortaCath) - [**2150-4-6**] 06:40 PM
   18 Gauge - [**2150-4-6**] 06:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-04-09 11:35:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   Chronic Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2150-4-8**] 02:30 PM
 EKG - At [**2150-4-8**] 04:30 PM
   -Patient with ABX continued in consultation with ID service.
   -Transient tachycardia noted and with some imporvement with reassurance
   of patient who was agitated
   -IgG is low
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Aspirin
   upset stomach;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-4-9**] 02:24 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2150-4-8**] 05:00 PM
   Heparin Sodium (Prophylaxis) - [**2150-4-8**] 10:01 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2150-4-9**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37
C (98.6
   HR: 100 (84 - 140) bpm
   BP: 94/57(66) {75/32(42) - 121/73(83)} mmHg
   RR: 25 (7 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,122 mL
                                                                    280 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    762 mL
                                                                    280 mL
   Blood products:
   Total out:
                                                                    490 mL
                                                                      0 mL
   Urine:
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    632 mL
                                                                    280 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   62 K/uL
   148 mg/dL
   3.5 mg/dL
   27 mEq/L
   3.6 mEq/L
   27 mg/dL
   104 mEq/L
   143 mEq/L
   26.4 %
   1.3 K/uL
        [image002.jpg]
                             [**2150-4-6**]  08:01 PM
                             [**2150-4-6**]  08:11 PM
                             [**2150-4-7**]  02:30 AM
                             [**2150-4-8**]  05:00 AM
                             [**2150-4-8**]  04:49 PM
                             [**2150-4-9**]  03:14 AM
   WBC
   3.3
   2.5
   1.3
   Hct
   28.1
   26.9
   26.4
   Plt
   70
   70
   62
   Cr
   4.7
   6.3
   2.5
   3.5
   TropT
   0.11
   0.25
   TCO2
   27
   Glucose
   249
   162
   188
   148
   Other labs: PT / PTT / INR:15.2/39.3/1.3, CK / CKMB /
   Troponin-T:34//0.25, Alk Phos / T Bili:/0.4, Differential-Neuts:40.0 %,
   Band:0.0 %, Lymph:44.0 %, Mono:12.0 %, Eos:0.0 %, Lactic Acid:1.0
   mmol/L, LDH:177 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: ANC decreased to 550
   Assessment and Plan
   73 yo male with h/o NHL on active chemotherapy who has ongoing Rx for
   possible cathter related or pulmonary source.
   Sepsis-Possible pulmonary source with pneumonia suggeste by LLL
   infiltrate which appears to be new/acute
   -vanco/zosyn and will move to Zosyn alone given MRSA screen
   -I/O even as goal
   -Pressors weaned to off today
   -Will need to follow this infiltrate to resolution on left side.  The
   RLL opacity has persisted across time
the issue is that this may
   represent fungal source
but alternative testing has been negative to
   date.  Certainly atypical mycobacteria or nocaria is possible and will
   have to consider approach to diagnosis if all cultures are negative
   Renal Failure-He has chronic dialysis requirement and has had issues
   around dialysis with significant LOC and likely concern for fluid shift
   related hypotension.
   -HD tomorrow and would prefer that in inpatient setting for possible
   recurrence of LOC
   NHL-
   -Will continue to monitor counts
   -Concern for evolution to neutropenia
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-4-6**] 06:39 PM
   Indwelling Port (PortaCath) - [**2150-4-6**] 06:40 PM
   18 Gauge - [**2150-4-6**] 06:41 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :To Floor
   Total time spent: 40

2150-04-10 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Dialyzed.
   - BP stable, remained off pressors all day.
   Allergies:
   Aspirin
   upset stomach;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-4-10**] 02:36 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-4-10**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.3
   HR: 88 (86 - 110) bpm
   BP: 112/47(65) {74/37(46) - 122/73(72)} mmHg
   RR: 32 (0 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    507 mL
                                                                    123 mL
   PO:
             TF:
   IVF:
                                                                    507 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    100 mL
   Urine:
   100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    507 mL
                                                                     23 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///32/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: crackles at both bases, no wheezes
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   64 K/uL
   8.6 g/dL
   145 mg/dL
   4.9 mg/dL
   32 mEq/L
   3.6 mEq/L
   42 mg/dL
   103 mEq/L
   142 mEq/L
   25.6 %
   1.3 K/uL
        [image002.jpg]
                             [**2150-4-6**]  08:01 PM
                             [**2150-4-6**]  08:11 PM
                             [**2150-4-7**]  02:30 AM
                             [**2150-4-8**]  05:00 AM
                             [**2150-4-8**]  04:49 PM
                             [**2150-4-9**]  03:14 AM
                             [**2150-4-10**]  02:08 AM
   WBC
   3.3
   2.5
   1.3
   1.3
   Hct
   28.1
   26.9
   26.4
   25.6
   Plt
   70
   70
   62
   64
   Cr
   4.7
   6.3
   2.5
   3.5
   4.9
   TropT
   0.11
   0.25
   TCO2
   27
   Glucose
   249
   162
   188
   148
   145
   Other labs: PT / PTT / INR:14.9/35.8/1.3, CK / CKMB /
   Troponin-T:34//0.25, Alk Phos / T Bili:/0.4, Differential-Neuts:37.0 %,
   Band:0.0 %, Lymph:40.0 %, Mono:11.0 %, Eos:7.0 %, Lactic Acid:1.0
   mmol/L, LDH:177 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   This is a 73 yo male with NHL on Bendemustine (last dose [**2150-3-25**], ESRD
   on HD, here with fever, hypotension, and new LLL infiltrate on CXR
   concerning for pneumosepsis.
   .
   1. Pneumonia, Sepsis, Hypotension, Fever:  Improving. Chest CT with
   clear evidence of new LLL pneumonia.  RLL pneumonia appears improved
   compared to prior, though given length of course, concerning for
   potential atypical process or fungal infection.  Low IgG likely related
   to therapy for NHL and may predispose patient to pneumonia. Awaiting
   culture data, sputum cx inadequate. Now with ANC of <500. Afebrile x
   24hrs. Off Levophed x24hrs, including during dialysis.
   - Cont. Vanc & zosyn (D1 [**4-6**]), azithromycin stopped, MRSA screen neg,
   but now neutropenic
   - Cont neutropenic precautions
   - f/u sputum, blood, urine cultures
   - f/u glucan pending, galactomannan neg (drawn 1 hr after 1^st dose of
   zosyn)
   - hold carvedilol, spironolactone, lisinopril for hypotension
   - ID recs: Try to obtain adequte sputum sample, BAL if worsens, hold on
   empiric fungal coverage
   .
   2.  Respiratory distress:  Resolved.  After arrival to MICU, after
   getting 3.5 L of IVF, patient developed acute respiratory distress,
   hypertension, tachycardia, diffuse wheezing, and blood-tinged sputum.
   History was consistent with flash pulmonary edema, and responded with
   lasix 40IV, morphine 1 mg, lopressor 5 mg IV.  Lung exam, respiratory
   distress, and O2 requirements improved with these interventions.  CT
   chest showed LLL consolidation c/w PNA, so getting vanco/zosyn. Appears
   to be typical organism, so Azithro d/c
   - wean O2 as possible
 now on 2-3L NC
   - vanco/zosyn for PNA
   .
   3.  Syncope.  Syncope at dialysis likely secondary to cerbral
   hypoperfusion in setting of hypotension from pneumonia.  EKG has no
   ischemic changes. Ruled out for AMI. Now on pressors to maintain MAPS >
   65. Tolerating OOB to chair w/o symptoms.
   .
   4. CKD. ESRD, on HD. Nephrology following, their assistance
   appreciated.  [**Month (only) 51**] need to titrate up levophed during HD.
   - continue nephrocaps, Ca acetate
   - renal diet
   .
   5.  Type 2 DM.  On ISS.
   - hold glipizide
   .
   6.  NHL.  S/p Bendemustine (last dose [**2150-3-25**]) which is an alkylating
   [**Doctor Last Name **].  It causes pancytopenia with [**Last Name (un) 6472**] at 3 weeks ([**2150-4-15**]).  Also
   can cause hypotension in 6% of patients.
   - Cont to update Oncology
   .
   7. Anemia: Likely related to therapy for NHL.
   - trend hct.
   .
   FEN: Replete electrolytes, regular diet
   .
   Prophylaxis: Subcutaneous heparin
   .
   Access: peripherals, right tunneled HD line, right port-a-cath
   .
   Code: full
   .
   Communication: Patient
   .
   Disposition: ICU care as patient is on pressors
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-4-6**] 06:39 PM
   Indwelling Port (PortaCath) - [**2150-4-6**] 06:40 PM
   18 Gauge - [**2150-4-6**] 06:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-04-10 11:16:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Dialysis for today
   -Pressors remained off across >24 hours
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Aspirin
   upset stomach;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-4-10**] 09:55 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-4-10**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.3
   HR: 99 (86 - 105) bpm
   BP: 96/53(64) {74/37(46) - 122/67(72)} mmHg
   RR: 23 (0 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    507 mL
                                                                    211 mL
   PO:
             TF:
   IVF:
                                                                    507 mL
                                                                    211 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    100 mL
   Urine:
   100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    507 mL
                                                                    111 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///32/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   64 K/uL
   145 mg/dL
   4.9 mg/dL
   32 mEq/L
   3.6 mEq/L
   42 mg/dL
   103 mEq/L
   142 mEq/L
   25.6 %
   1.3 K/uL
        [image002.jpg]
                             [**2150-4-6**]  08:01 PM
                             [**2150-4-6**]  08:11 PM
                             [**2150-4-7**]  02:30 AM
                             [**2150-4-8**]  05:00 AM
                             [**2150-4-8**]  04:49 PM
                             [**2150-4-9**]  03:14 AM
                             [**2150-4-10**]  02:08 AM
   WBC
   3.3
   2.5
   1.3
   1.3
   Hct
   28.1
   26.9
   26.4
   25.6
   Plt
   70
   70
   62
   64
   Cr
   4.7
   6.3
   2.5
   3.5
   4.9
   TropT
   0.11
   0.25
   TCO2
   27
   Glucose
   249
   162
   188
   148
   145
   Other labs: PT / PTT / INR:14.9/35.8/1.3, CK / CKMB /
   Troponin-T:34//0.25, Alk Phos / T Bili:/0.4, Differential-Neuts:37.0 %,
   Band:0.0 %, Lymph:40.0 %, Mono:11.0 %, Eos:7.0 %, Lactic Acid:1.0
   mmol/L, LDH:177 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   73 yo male with h/o ESRD and admit with LOC following dialysis and now
   had slow resolution of hypotension following treatment for likely LLL
   pneumonia.  This has been encouraging response across time here but now
   he has entered and expected period of neutropenia following Chemo Rx.
   1)Sepsis-
   -ZOsyn/Vanco
   -Levophed weaned off
   -continue ABX throughout neutropenia period
   -Follow up sputum as needed
   2)Chronic Renal Failure-
   -Dialysis today
   -Will continue with renal consult throughout
   3)Lymphoma
   -Would consider transfer to oncology service if desired.
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-4-6**] 06:39 PM
   Indwelling Port (PortaCath) - [**2150-4-6**] 06:40 PM
   18 Gauge - [**2150-4-6**] 06:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments: OOB to chair
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes